US04034043
Splitting of the 2-formylamino-5-chlorotoluene, formed on chlorination of 2-formylaminotoluene, with methanol is performed at a temperature of between 20° and 60° C., preferably at between 25° and 30° C. The reaction duration is about 1 to 2 hours.

reactant | 2-formylamino-5-chlorotoluene | C(=O)NC1=C(C=C(C=C1)Cl)C | C8H8ClNO
solvent | methanol | CO | CH4O
product | 2-formylaminotoluene | C(=O)NC1=C(C=CC=C1)C | C8H9NO
